### PR TITLE
Chage: ==-reflexive location. Add: Basic boolean leammas

### PR DESCRIPTION
**Pull request by t-more**
Put one lemma in the wrong place, (==-reflexive). Added boolean lemmas

### CODE REVIEW

File: src/Prelude/Bool/Properties.agda [hunk 1]
```diff
@@ -6,14 +6,52 @@ open import Prelude.Bool
...
+  IsFalse⇒≡ false = refl
+
+  not[x]≡false⇒x≡true : {x : Bool} → not x ≡ false → x ≡ true
+  not[x]≡false⇒x≡true {true} _ = refl
+  not[x]≡false⇒x≡true {false} ()
+
+
+  not[x]≡true⇒x≡false : {x : Bool} → not x ≡ true → x ≡ false
+  not[x]≡true⇒x≡false {true} ()
+  not[x]≡true⇒x≡false {false} _ = refl
```
Comment (UlfNorell) [inline src/Prelude/Bool/Properties.agda:50]: Shadowing `x`. Nicer might be to import `Prelude.Variables` and drop the anonymous module.

**Review by UlfNorell — CHANGES_REQUESTED** [review]

File: src/Prelude/Bool/Properties.agda (hunk 1 above)
Comment (t-more) [reply src/Prelude/Bool/Properties.agda:50]: Oh yeah, I should have moved those out of the anonymous module. I have a strange issue with the definition here here the removal of **`{x}`******

Comment (t-more) [reply src/Prelude/Bool/Properties.agda:50]: I had a similar problem with the two definitions `x||true` and `x&&false`. I'm not quite sure, maybe you know?

Comment (UlfNorell) [reply src/Prelude/Bool/Properties.agda:50]: Yes, you cannot bind the module parameter in the left-hand side, since it's already bound in the module telescope. Importing `Prelude.Variables` will solve this and let you write
```agda
  not[x]≡true⇒x≡false : not x ≡ true → x ≡ false
  not[x]≡true⇒x≡false {true} ()
  not[x]≡true⇒x≡false {false} _ = refl
```

**Review by UlfNorell — CHANGES_REQUESTED** [review]

File: src/Prelude/Bool/Properties.agda [hunk 2]
```diff
@@ -5,15 +5,51 @@ open import Prelude.Equality
...
+de-morg-neg-disj : (a : Bool) → (b : Bool) → not (a || b) ≡ (not a && not b)
+de-morg-neg-disj true true = refl
+de-morg-neg-disj false true = refl
+de-morg-neg-disj true false  = refl
+de-morg-neg-disj false false  = refl
+
+true≢false : _≢_ {A = Bool} true false
+true≢false ()
+
+false≢true : _≢_ {A = Bool} false true
```
[the remark this answers is not in the document]
Comment (t-more) [reply src/Prelude/Bool/Properties.agda:25]: I defined them because of a special case in my 'Ord' extensions.
E.g https://gitlab.com/tmore/agda-prelude-extras/-/blob/master/src/Prelude/Extras/Ord.agda#L88
See the first case for the compare cases. (`a<?b≡false : true ≡ false`)
``` agda
  ≮?⇒≮ : {a b : A} → (a <? b) ≡ false → a ≮ b
  ≮?⇒≮ {a = a} {b = b} a<?b≡false
    with compare a b
  ...| less a<b = λ x → true≢false a<?b≡false
  ...| equal a≡b rewrite a≡b = λ a<b → ⊥-elim (less-antirefl a<b)
  ...| greater a>b = λ a<b → ⊥-elim (less-antisym a>b a<b)
```
Agda fails to solve the constraints for:
`(λ ()) a<?b≡false`

[the remark this answers is not in the document]
Comment (UlfNorell) [reply src/Prelude/Bool/Properties.agda:25]: I would write that as `case a<?b≡false of λ ()`.

[the remark this answers is not in the document]
Comment (t-more) [reply src/Prelude/Bool/Properties.agda:25]: Fair enough, I will remove these

**Review by UlfNorell — APPROVED** [review]

**Comment by UlfNorell** [comment]
Great!
